US09328099B2
1-{3-(Cyanomethyl)-1-[(3-fluorophenyl)carbamoyl]azetidin-3-yl}-3-(phenylamino)-1H pyrazole-4-carboxamide
3-[4-Carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-3-(cyanomethyl)azetidinium trifluoroacetate (Intermediate #38-2) (25 mg, 0.060 mmol) was dissolved in MeCN (0.50 mL) and treated with DIPEA (0.020 mL, 0.12 mmol) and 1-fluoro-3-isocyanatobenzene (0.010 mL, 0.090 mmol). The reaction mixture was stirred at ambient temperature for 2 hours and then diluted with DMSO (1.0 mL) and purified directly by reverse-phase preparative HPLC (using a gradient elution of 5-95% MeCN/water, with 0.1% v/v NH4OH modifier). Desired fractions were identified, combined, and concentrated in vacuo to afford the title compound, Example #38-1.

reactant | 3-[4-Carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-3-(cyanomethyl)azetidinium trifluoroacetate | 0.060 mmol, 25 mg | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(C[NH2+]C1)CC#N)NC1=CC=CC=C1
reactant | DIPEA | 0.12 mmol, 0.020 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-fluoro-3-isocyanatobenzene | 0.090 mmol, 0.010 mL | FC1=CC(=CC=C1)N=C=O | C7H4FNO
solvent | MeCN | 0.50 mL | CC#N | C2H3N
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 1-{3-(Cyanomethyl)-1-[(3-fluorophenyl)carbamoyl]azetidin-3-yl}-3-(phenylamino)-1H pyrazole-4-carboxamide | C(#N)CC1(CN(C1)C(NC1=CC(=CC=C1)F)=O)N1N=C(C(=C1)C(=O)N)NC1=CC=CC=C1 | C22H20FN7O2
